US08835689B2
a) 4-dimethylamino-4-phenyl-1-(pyrrolidin-1-yl)cyclohexane carbonitrile
A mixture of methanol (50 ml) and water (50 ml) was acidified with hydrochloric acid (37%, 0.2 ml) and mixed with pyrrolidine (7.5 ml, 91 mmol) with ice cooling and stirring. 4-dimethylamino-4-phenylcyclohexanone (2.17 g, 10 mmol) was then added to the solution. The batch was stirred for 10 min to dissolve the ketone as completely as possible. KCN (1.6 g, 24.6 mmol) was then added. The ice cooling was removed and the batch stirred for 2 d at RT, during which white solid separated out. The batch was brought to approx. 0° C. again for 1 h by ice cooling to complete the precipitation. The precipitate was then separated by means of a fritted glass filter and dried in a vacuum at a bath temperature of 40° C. A diastereoisomer mixture of the title compound was obtained with a yield of 2.7 g (90%) and with a melting point of 136-142° C.

reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | pyrrolidine | 91 mmol, 7.5 ml | N1CCCC1 | C4H9N
reactant | 4-dimethylamino-4-phenylcyclohexanone | 10 mmol, 2.17 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | KCN | 24.6 mmol, 1.6 g | [C-]#N.[K+]
solvent | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-dimethylamino-4-phenyl-1-(pyrrolidin-1-yl)cyclohexane carbonitrile | CN(C1(CCC(CC1)(C#N)N1CCCC1)C1=CC=CC=C1)C | C19H27N3
